US08461083B2
Preparation of 2,3,4,4-tetrachloro-8-oxa-bicyclo[3.2.1]octa-2,6-diene
A stirred mixture of 1,2,3,3-tetrachlorocyclopropene (60 g) and furan (22.97 g) in dry toluene (600 ml) was heated to reflux for 30 hours. The solvent was evaporated under reduced pressure to afford the required product, 75.4 g. 1H NMR (CDCl3) δ: 6.90 (1H, dd), 6.45 (1H, dd), 5.41 (1H, d), 4.93 (1H, d).

reactant | 1,2,3,3-tetrachlorocyclopropene | 60 g | ClC1=C(C1(Cl)Cl)Cl | C3Cl4
reactant | furan | 22.97 g | O1C=CC=C1 | C4H4O
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3,4,4-tetrachloro-8-oxa-bicyclo[3.2.1]octa-2,6-diene | ClC=1C2C=CC(C(C1Cl)(Cl)Cl)O2 | C7H4Cl4O
